US06184236B2
Following the procedure of example 40b, N-[1-(4-benzyloxy-phenyl)-piperidin-4-yl]-2-phenyl-acetamide (200 mg) was reduced with LiAlH4 to give [1-(4-benzyloxy-phenyl)-piperidin-4-yl]-phenethyl-amine (65 mg; 34%) as a white solid (MS: m/e=387.3 (M+H+)).

reactant | N-[1-(4-benzyloxy-phenyl)-piperidin-4-yl]-2-phenyl-acetamide | 200 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1CCC(CC1)NC(CC1=CC=CC=C1)=O | C26H28N2O2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | [1-(4-benzyloxy-phenyl)-piperidin-4-yl]-phenethyl-amine | 65 mg, 34% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1CCC(CC1)NCCC1=CC=CC=C1 | C26H30N2O
